US08053438B2
4-Fluorobenzene-1,2-diamine (10.0 g, 0.077 mol) and potassium O-ethyl carbonodithioate (37.1 g, 0.234 mol) were dissolved in dry DMF (150 mL) under nitrogen and heated to 95° C. for 12 h. The reaction was cooled to RT and 200 mL water was added followed by addition of 5N HCl to get precipitates. After stirring for 1 h, the precipitates were collected by filtration, washed with water and dried under vacuum for 2 h. The crude compound was then washed with chloroform and dried to give 6-fluorobenzo[d]thiazole-2-thiol as yellow solid.

reactant | 4-Fluorobenzene-1,2-diamine | 0.077 mol, 10.0 g | FC=1C=C(C(=CC1)N)N | C6H7FN2
reactant | potassium O-ethyl carbonodithioate | 0.234 mol, 37.1 g | C(OCC)(=S)[S-].[K+]
reactant | water | 200 mL | O | H2O
reactant | HCl | 5N | Cl | ClH
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 6-fluorobenzo[d]thiazole-2-thiol | FC1=CC2=C(N=C(S2)S)C=C1 | C7H4FNS2
